US03937707
5.0 grams of 6-(3-chloropropoxy)-1-phenazinol 5,10-dioxide and 25ml of diethylamine were placed in a flask. To this was added 50ml of dimethylsulfoxide. The reaction mixture was stirred at room temperature for 22 hours. The reaction mixture was then diluted with 400ml CHCl3 and washed first with very dilute acetic acid and then with water until the water washes were neutral. The CHCl3 layer was extracted with 10 percent aqueous HCl. The combined HCl extracts were neutralized with sodium carbonate and extracted with ethyl acetate. The combined ethyl acetate extracts were washed with water, dried over sodium sulfate and concentrated in vacuo. The residue was slurried with ether/pentane (1:1) and filtered to yield red crystals of 6-(3-diethylaminopropoxy)-1-phenazinol 5,10-dioxide, m.p. 78°-80° (dec.).

reactant | 6-(3-chloropropoxy)-1-phenazinol 5,10-dioxide | 5.0 grams | ClCCCOC1=C2[N+](=C3C=CC=C(C3=[N+](C2=CC=C1)[O-])O)[O-] | C15H13ClN2O4
reactant | diethylamine | 25ml | C(C)NCC | C4H11N
reactant | dimethylsulfoxide | 50ml | CS(=O)C | C2H6OS
solvent | CHCl3 | 400ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(3-diethylaminopropoxy)-1-phenazinol 5,10-dioxide | C(C)N(CCCOC1=C2[N+](=C3C=CC=C(C3=[N+](C2=CC=C1)[O-])O)[O-])CC | C19H23N3O4
